US07678820B2
To a solution of 6-amino-2-methylnicotinonitrile (960 mg) in ethanol (34 ml) was added a 40% aqueous chloroacetaldehyde solution (2.36 ml) at 60° C. The reaction mixture was refluxed for 8 hours. The resulting precipitates were collected by filtration to obtain 5-methylimidazo[1,2-a]pyridine-6-carbonitrile hydrochloride (580 mg) as a white solid.

reactant | 6-amino-2-methylnicotinonitrile | 960 mg | NC1=NC(=C(C#N)C=C1)C | C7H7N3
reactant | chloroacetaldehyde | 2.36 ml | ClCC=O | C2H3ClO
solvent | ethanol | 34 ml | C(C)O | C2H6O
product | 5-methylimidazo[1,2-a]pyridine-6-carbonitrile hydrochloride | 580 mg | Cl.CC1=C(C=CC=2N1C=CN2)C#N | InChI=1S/C9H7N3.ClH/c1-7-8(6-10)2-3-9-11-4-5-12(7)9;/h2-5H,1H3;1H
